US08609680B2
Ethyl cyanoacetate (2.56 mL, 24.0 mmol) was added dropwise to a suspension of 959 mg of NaH (60%, 24.0 mmol) in 10 mL of DMF. The mixture was stirred for 1 h at room temperature. CsF (61 mg, 0.4 mmol) and a solution of 4-chloro-3-nitro-anisole (1.5 g, 8.0 mmol) in 2 mL of DMF were added and the mixture was stirred overnight at 70° C. The reaction mixture was cooled to room temperature and was quenched by the addition of 5 mL of water. Aqueous 1N HCl (5 mL) was added to adjust the pH to 3-4 and the mixture was diluted with dichloromethane. The organic layer was washed with saturated brine, dried over Na2SO4, and dried in vacuo. The crude product was purified on a Biotage (Biotage Inc.) 50 g silica column, eluting with 0-40% EtOAc in heptane over 40 minutes to provide 1.83 g (87%) of cyano-(4-methoxy-2-nitro-phenyl)-acetic acid ethyl ester.

reactant | Ethyl cyanoacetate | 24.0 mmol, 2.56 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | NaH | 24.0 mmol, 959 mg | [H-].[Na+]
reactant | 4-chloro-3-nitro-anisole | 8.0 mmol, 1.5 g | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | CsF | 0.4 mmol, 61 mg | [F-].[Cs+]
product | cyano-(4-methoxy-2-nitro-phenyl)-acetic acid ethyl ester | 1.83 g, 87% | C(C)OC(C(C1=C(C=C(C=C1)OC)[N+](=O)[O-])C#N)=O | C12H12N2O5
